US07723330B2
Step C: Preparation of 1-(4-methoxybenzyl)-4-(5-chloro-2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine:
A mixture of 1-chloro-4,5-difluoro-2-nitrobenzene (2.23 g, 11.5 mmol), 1-(4-methoxybenzyl)-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-ol (4.00 g, 10.5 mmol), K2CO3 (1.60 g, 11.5 mmol) and DMF (100 mL) was heated to 50° C. for 18 hours. The reaction was cooled to ambient temperature, diluted with water (500 mL), extracted with EtOAc, dry over sodium sulfate, filter and concentrate. The residue was purified by flash column chromatography (5% MeOH in CH2Cl2) to provide a light pink solid. The solid was triturated with hot MeOH to afford the product (2.35 g, 40% yield) as a white solid. LRMS (APCI pos) m/e 554.8 (M+H).

reactant | 1-chloro-4,5-difluoro-2-nitrobenzene | 11.5 mmol, 2.23 g | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
reactant | 1-(4-methoxybenzyl)-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-ol | 10.5 mmol, 4.00 g | COC1=CC=C(CN2N=C(C3=C2N=CC=C3O)I)C=C1 | C14H12IN3O2
reactant | K2CO3 | 11.5 mmol, 1.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 1-(4-methoxybenzyl)-4-(5-chloro-2-fluoro-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine | 2.35 g, 40% yield | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C(=C3)Cl)[N+](=O)[O-])F)I)C=C1 | C20H13ClFIN4O4
